US04985569
7a-Nitromethyl-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine
To a solution of nitromethane (0.67 g, 11 mmol) in 0.3 ml of 16% NH3 /MeOH, 1,7-dichloro-4-heptanone (0.50 g, 2.7 mmol) was added dropwise at 20° C. The resulting solution was stirred for 24 hours at 20° C. under ammonia gas atmosphere. The reaction mixture was concentrated and 0.1N NaOH was added to the residue to extract with methylene chloride. The extract was dried over anhydrous sodium sulfate, concentrated and distilled in vacuo to afford 0.42 g of the desired compound (Yield: 90%).

reactant | nitromethane | 11 mmol, 0.67 g | [N+](=O)([O-])C | CH3NO2
reactant | 1,7-dichloro-4-heptanone | 2.7 mmol, 0.50 g | ClCCCC(CCCCl)=O | C7H12Cl2O
reactant | NH3 MeOH | 0.3 ml | N.CO
product | 7a-Nitromethyl-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine | 0.42 g, Yield: 90% | [N+](=O)([O-])CC12CCCN2CCC1 | C8H14N2O2
